US07368578B2
To a mixture of 4-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-2-phenylpyrimidine-5-carbaldehyde (1.00 g), tetraethyl methylenediphosphonate (0.58 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60% in oil, 0.090 g) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, 2N hydrochloric acid was added to acidify the solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with acetone-hexane (2:3, v/v) to give diethyl (Z)-2-(4-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-2-phenylpyrimidin-5-yl)ethenylphosphonate as crystals (0.095 g, yield 7%). Recrystallization from acetone-hexane gave colorless needle crystals. melting point: 154-155° C.

reactant | 4-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-2-phenylpyrimidine-5-carbaldehyde | 1.00 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NC(=NC=C2C=O)C2=CC=CC=C2)C=C1)OC)C | C28H23N3O6
reactant | tetraethyl methylenediphosphonate | 0.58 g | C(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H22O6P2
reactant | sodium hydride | 0.090 g | [H-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | diethyl (Z)-2-(4-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-2-phenylpyrimidin-5-yl)ethenylphosphonate | 0.095 g, yield 7% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NC(=NC=C2\C=C/P(OCC)(OCC)=O)C2=CC=CC=C2)C=C1)OC)C | C33H34N3O8P
